US04988694
6-Acetyl-3-amino-2-chloropyridine
5 g (24 mmol) of 3-acetamido-6-acetyl-2-chloropyridine are boiled under reflux in a mixture of 25 ml of concentrated aqueous HCl and 25 ml of methanol for one hour. After cooling, the mixture is carefully added to 600 ml of saturated NaHCO3 solution and extracted three times with 200 ml of methylene chloride each time. The collected organic phases are dried with Na2SO4 and evaporated. The residue is recrystallized from toluene/petroleum ether.

reactant | 3-acetamido-6-acetyl-2-chloropyridine | 24 mmol, 5 g | C(C)(=O)NC=1C(=NC(=CC1)C(C)=O)Cl | C9H9ClN2O2
reactant | NaHCO3 | 600 ml | C(=O)(O)[O-].[Na+]
solvent | HCl | 25 ml | Cl | ClH
solvent | methanol | 25 ml | CO | CH4O
product | 6-Acetyl-3-amino-2-chloropyridine | C(C)(=O)C1=CC=C(C(=N1)Cl)N | C7H7ClN2O
